US06599902B2
Synthesis of (2S,4R)-1-(2-{5-[5-(2,6-Dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrol-3-yl}-acetyl)-4-hydroxy-pyrrolidine-2-carboxylic acid Cyclopropylamide
To a mixture of {5-[5-(2,6-dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrol-3-yl}-acetic acid (238 mg, 0.46 mmol), HOBt (68 mg, 0.51 mmol) and EDC (105 mg, 0.55 mmol) in DMF 98 mL) was added (2S,4R)-4-hydroxy-pyrrolidine-2-carboxylic acid cyclopropylamide (excess) and TEA (0. 95 mL, 0.6 mmol). The mixture was stirred at rt for 3 days. The reaction was diluted with DCM (200 mL), washed with NH4Cl, NaHCO3, brine, dried and concentrated. The residue was purified on a silica gel column to give 120 mg of the titled compound. MS m/z 655 [M−1].

reactant | {5-[5-(2,6-dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrol-3-yl}-acetic acid | 0.46 mmol, 238 mg | ClC1=C(C(=CC=C1)Cl)CS(=O)(=O)C=1C=C2/C(/C(NC2=CC1)=O)=C/C1=C(C(=C(N1)C)CC(=O)O)C | C24H20Cl2N2O5S
reactant | HOBt | 0.51 mmol, 68 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 0.55 mmol, 105 mg
reactant | (2S,4R)-4-hydroxy-pyrrolidine-2-carboxylic acid cyclopropylamide | C1(CC1)NC(=O)[C@H]1NC[C@@H](C1)O | C8H14N2O2
solvent | DMF | 98 mL | CN(C)C=O | C3H7NO
solvent | DCM | 200 mL | C(Cl)Cl | CH2Cl2
product | (2S,4R)-1-(2-{5-[5-(2,6-Dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrol-3-yl}-acetyl)-4-hydroxy-pyrrolidine-2-carboxylic acid Cyclopropylamide | 120 mg | C1(CC1)NC(=O)[C@H]1N(C[C@@H](C1)O)C(CC1=C(NC(=C1C)\C=C\1/C(NC2=CC=C(C=C12)S(=O)(=O)CC1=C(C=CC=C1Cl)Cl)=O)C)=O | C32H32Cl2N4O6S
